US07091211B2
Step B: tert-Butyl 4-hydroxymethyl-4-(2-(tert-butyldimethylsilyloxy)eth-1-yl)piperidine-1-carboxylate
The crude tert-butyl 4-methoxycarbonyl-4-(2-(tert-butyldimethylsilyloxy)eth-1-yl)piperidine-1-carboxylate (assumed 44 mmol) from Step A was taken up in THF (200 mL) and 2M lithium borohydride in THF (29 mL, 58 mmol) was added via syringe at room temperature. The reaction was stirred for 2 days at room temperature and then at 50° C. for 20 h after addition of more 2M lithium borohydride in THF (2.9 mL, 5.8 mmol). The mixture was then quenched with acetic acid, diluted with ether and aq. sodium bicarbonate solution, and extracted three times with ether. The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography (20% ethyl acetate in hexanes) to afford recovered starting material (2.5 g) and the title product (7.1 g).

reactant | tert-butyl 4-methoxycarbonyl-4-(2-(tert-butyldimethylsilyloxy)eth-1-yl)piperidine-1-carboxylate | 44 mmol | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CCO[Si](C)(C)C(C)(C)C | C20H39NO5Si
reactant | lithium borohydride | 2M | [BH4-].[Li+]
reactant | lithium borohydride | 2M | [BH4-].[Li+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 5.8 mmol, 2.9 mL | C1CCOC1 | C4H8O
solvent | THF | 58 mmol, 29 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-hydroxymethyl-4-(2-(tert-butyldimethylsilyloxy)eth-1-yl)piperidine-1-carboxylate | OCC1(CCN(CC1)C(=O)OC(C)(C)C)CCO[Si](C)(C)C(C)(C)C | C19H39NO4Si
